US07569578B2
(±)-4-(2-Oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carboxylic acid [2-(7-ethyl-3-methyl-1H-indazol-5-yl)-1-(1-methyl-1H-tetrazol-5-yl)-ethyl]-amide
A mixture of 4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carboxylic acid [2-(7-ethyl-3-methyl-1H-indazol-5-yl)-1-(1H-tetrazol-5-yl)-ethyl]-amide (50 mg, 0.1 mmol, 1.0 equiv), sodium carbonate (40.0 mg, 3.0 equiv), and iodomethane (24 μL, 3.0 equiv) were combined in dimethylsulfoxide and the mixture stirred at room temperature overnight. The mixture was then diluted with water and extracted with ethyl acetate (3×). The combined organic extracts were washed with water (3×), brine (3×), dried over sodium sulfate, and concentrated. Purification by preparative HPLC afforded the title compound. 1H-NMR (CD3OD) δ 1.30 (m, 4H), 1.57 (m, 3H), 2.50 (s, 3H), 2.75-2.95 (m, 5H), 3.40 (m, 2H), 3.68 (m, 3H), 4.05-4.40 (m, 6H), 5.35 (m, 1H), 6.75 (m, 1H), 6.95 (dd, J=7.3, 7.6, 1H), 6.98 (s, 1H), 7.12 (m, 2H), 7.35 (s, 1H). Mass spec.: 543.42 (MH)+.

reactant | 4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carboxylic acid [2-(7-ethyl-3-methyl-1H-indazol-5-yl)-1-(1H-tetrazol-5-yl)-ethyl]-amide | 0.1 mmol, 50 mg, 1.0 equiv | C(C)C=1C=C(C=C2C(=NNC12)C)CC(C1=NN=NN1)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C27H32N10O2
reactant | sodium carbonate | 40.0 mg, 3.0 equiv | C([O-])([O-])=O.[Na+].[Na+]
reactant | iodomethane | 24 μL, 3.0 equiv | IC | CH3I
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | (±)-4-(2-Oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carboxylic acid [2-(7-ethyl-3-methyl-1H-indazol-5-yl)-1-(1-methyl-1H-tetrazol-5-yl)-ethyl]-amide | C(C)C=1C=C(C=C2C(=NNC12)C)CC(C1=NN=NN1C)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C28H34N10O2
